US04025505
The starting material is prepared as follows: The suspension of 6.0 g of 4-chlorophthalic anhydride, 5.0 g of 4-amino-3-methylbenzoic acid and 75 ml of acetic acid is refluxed for 3 hours, cooled to room temperature, filtered and the residue washed with diethyl ethyl, to yield the N-(4-carboxy-o-tolyl)-4-chlorophthalimide melting at 250°-252°.

reactant | 4-chlorophthalic anhydride | 6.0 g | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
reactant | 4-amino-3-methylbenzoic acid | 5.0 g | NC1=C(C=C(C(=O)O)C=C1)C | C8H9NO2
reactant | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | N-(4-carboxy-o-tolyl)-4-chlorophthalimide | C(=O)(O)C1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C16H10ClNO4
